US06458788B1
Methyl 3-{[(4-chlorobenzyl)amino]carbonyl]-4-hydroxy-6-cinnolinecarboxylate
A flame-dried flask is charged with N-(4-chlorobenzyl)-4-hydroxy-6-iodo-3-cinnolinecarboxamide (0.23 g, 0.52 mmol), NEt3 (0.15 mL, 1.08 mmol), Pd(PPh3)2Cl2 (0.071 g, 0.10 mmol), methanol (0.85 mL, 20.98 mmol), and anhydrous DMF (5 mL). The reaction is placed under a CO balloon atmosphere and heated at 70° C. for 5 h at which point TLC shows disappearance of starting material. The reaction is cooled to room temperature and poured into 40 mL 1N HCl. The resulting solid is filtered and dried. The crude solid is dissolved in CH2Cl2/MeOH and adsorbed onto silica. Purification by chromatography (eluent 1% MeOH/CH2Cl2 (1 L), 1.5% MeOH/CH2Cl2 (1 L), 2% MeOH/CH2Cl2 (3L), 3% MeOH/CH2Cl2 (1 L)) affords the desired product as an off-white solid (0.12 g, 0.33 mmol, 64%). Physical characteristics are as follows: m.p. 308-310° C.; 1H NMR (300 MHz, DMSO-d6) δ 14.37, 9.80, 8.72, 8.34, 7.83, 7.41, 4.55, 3.92; IR (drift) 1725, 1661, 1625, 1600, 1581, 1535, 1486, 1296, 1276, 1245, 1237, 1129, 823, 806, 761 cm−1; MS (EI) m/z 371 (M+), 142, 141, 140, 139, 125, 89, 88, 74, 73, 51; HRMS (FAB) calcd for C18H14ClN3O4+H1 372.0751, found 372.0757.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-iodo-3-cinnolinecarboxamide | 0.52 mmol, 0.23 g | ClC1=CC=C(CNC(=O)C=2N=NC3=CC=C(C=C3C2O)I)C=C1 | C16H11ClIN3O2
reactant | NEt3 | 1.08 mmol, 0.15 mL | CCN(CC)CC | C6H15N
reactant | methanol | 20.98 mmol, 0.85 mL | CO | CH4O
reactant | HCl | 1N, 40 mL | Cl | ClH
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.10 mmol, 0.071 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 3-{[(4-chlorobenzyl)amino]carbonyl]-4-hydroxy-6-cinnolinecarboxylate | 0.33 mmol, 0.12 g, 64% | ClC1=CC=C(CNC(=O)C=2N=NC3=CC=C(C=C3C2O)C(=O)OC)C=C1 | C18H14ClN3O4
